US06593322B1
B. 1-{[4-((1E)-2-(1,3-Oxazolin-2-yl)vinyl)phenyl]methyl}-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline
To a solution of (2E)-3-(4-{[2-(4-fluorophenyl)-6-(phenylmethoxy)(1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)-N-(2-hydroxyethyl)prop-2-enamide (0.32 g, 0.6 mmol) and diethyl azodicarboxylate (0.136 g, 0.78 mmol) in tetrahydrofuran (10 mL) was added dropwise a solution of triphenylphosphine (0.205 g, 0.78 mmol) in tetrahydrofuran (2 mL). After it was stirred at room temperature for 2 hours, the solvent was evaporated. The residue was then purified by chromatography (SiO2, 50% ethyl acetate/hexane) to provide the title compound (0.267 g, 86% yield): 1H NMR (CDCl3) 7.29-7.44 (m, 9H), 7.01 (d, 2H), 6.92 (m, 2H), 6.69-6.76 (m, 5H), 6.60 (d, 1H), 5.03 (s, 2H), 4.75 (t, 1H), 4.35 (t, 2H), 3.99 (t, 2H), 3.56 (m, 1H), 3.50 (m, 1H), 3.16 (dd, 1H), 2.95 (m, 2H), 2.67 (dt, 1H); ES-MS m/z 519 [M+H]+.

reactant | (2E)-3-(4-{[2-(4-fluorophenyl)-6-(phenylmethoxy)(1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)-N-(2-hydroxyethyl)prop-2-enamide | 0.6 mmol, 0.32 g | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)/C=C/C(=O)NCCO | C34H33FN2O3
reactant | diethyl azodicarboxylate | 0.78 mmol, 0.136 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.78 mmol, 0.205 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-{[4-((1E)-2-(1,3-Oxazolin-2-yl)vinyl)phenyl]methyl}-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline | 0.267 g, 86% yield | O1C(=NCC1)/C=C/C1=CC=C(C=C1)CC1N(CCC2=CC(=CC=C12)OCC1=CC=CC=C1)C1=CC=C(C=C1)F | C34H31FN2O2
